US08202885B2
rac-(1R*,2R*,4R*)-2-(2-{Methyl-[3-(2-methyl-furo[2,3-b]pyridin-5-yl)-propyl]-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol
Prepared according to procedures P2.2 to P2.3 in Example 21 using rac-(1R*,2R*,4R*)-(2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)acetic acid and methyl-[3-(2-methyl-furo[2,3-b]pyridin-5-yl)-propyl]-amine.

reactant | rac-(1R*,2R*,4R*)-(2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)acetic acid | OC1(C2C=C(C(C1)CC2)C2=CC=CC=C2)CC(=O)O | C16H18O3
reactant | methyl-[3-(2-methyl-furo[2,3-b]pyridin-5-yl)-propyl]-amine | CNCCCC=1C=C2C(=NC1)OC(=C2)C | C12H16N2O
product | rac-(1R*,2R*,4R*)-2-(2-{Methyl-[3-(2-methyl-furo[2,3-b]pyridin-5-yl)-propyl]-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol | CN(CCC1(C2C=C(C(C1)CC2)C2=CC=CC=C2)O)CCCC=2C=C1C(=NC2)OC(=C1)C | C28H34N2O2
